US04537903
Step A: Preparation of ethyl o-bromocinnamate
Carboethoxymethylidene triphenylphosphorane (94 g, 270 mM) was dissolved in 350 ml of methylenechloride under nitrogen. o-Bromobenzaldehyde (31.5 ml; 270 mM) was added via an addition funnel in 125 ml of methylene chloride. The solution was allowed to stand at room temperature overnight and then the solvent was removed in vacuo. The slushy residue was taken up in 10% ethyl acetate in hexane and filtered through a one-inch pad of silica gel in a 350 ml fritted funnel with one liter of 10% ethyl acetate in hexane. Solvent removal on the rotary evaporator followed by pumping overnight gave 66.3 g of an oil, ethyl o-bromocinnamate in 96% yield. The NMR indicates a 4.5 to 1 mixture of trans to cis isomers.

reactant | Carboethoxymethylidene triphenylphosphorane | 270 mM, 94 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | o-Bromobenzaldehyde | 270 mM, 31.5 ml | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | methylenechloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
product | ethyl o-bromocinnamate | 66.3 g, 96% yield | BrC1=C(C=CC(=O)OCC)C=CC=C1 | C11H11BrO2
